US09193720B2
The 1.55 mL of benzo[d][1,3,2]dioxaborole (443 mg, 3.69 mmol) was added to a nitrogen purged solution of isopropyl 2-(5-bromo-4-(4-cyano-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate (780 mg, 1.85 mmol) and 0.74 mL of (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole (205 mg, 0.74 mmol) in toluene (18 mL) at −60° C. and allowed to warm to −15° C. before being placed in the freezer overnight. The reaction was quenched with 1M Na2CO3, diluted with EtOAc, and stirred for 30 min. The organic layer was washed with sat'd Na2CO3 solution, brine, and dried (MgSO4). The crude product was charged (DCM) to a 80 g ISCO silica gel cartridge and gradient elution (0-30% EtOAc/hexanes) using an Isolera chromatography station gave (S)-isopropyl 2-(5-bromo-4-(4-cyano-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate 674 mg (86%) as a mixture of diastereomers. 1H NMR (500 MHz, CD3OD) δ 5.89 (s, 1H), 5.10-5.05 (m, 1H), 4.13-4.05 (m, 1H), 3.78 (dt, J=11.7, 3.7 Hz, 1H), 3.06 (d, J=12.2 Hz, 1H), 2.86 (d, J=12.2 Hz, 1H), 2.63 (s, 3H), 2.51 (s, 3H), 1.94-1.86 (m, 3H), 1.79-1.73 (m, 1H), 1.46 (s, 3H), 1.24 (d, J=6.1 Hz, 3H), 1.15 (d, J=6.2 Hz, 3H). UPLC (M+H)=426.3.

reactant | benzo[d][1,3,2]dioxaborole | 3.69 mmol, 1.55 mL, 443 mg | O1BOC2=C1C=CC=C2 | C6H5BO2
reactant | isopropyl 2-(5-bromo-4-(4-cyano-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 1.85 mmol, 780 mg | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CCC(CC1)(C)C#N | C19H24BrN3O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole | 0.74 mmol, 0.74 mL, 205 mg | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-isopropyl 2-(5-bromo-4-(4-cyano-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate | 674 mg, 86% | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)O)N1CCC(CC1)(C)C#N | C19H26BrN3O3
